US05081256
4,4'-dibromo-2,2'-bisbenzimidazolyl biphenyl
To the PPSE solution was added 15.0 g of 4,4'-dibromodiphenic acid, 8.11 g of o-phenylene diamine (recrystallized from methylene chloride and charcoal). This mixture was rapidly heated to 160° C. and maintained there for 20 hours. The solution was cooled, then poured into 2 1 of 10% NaHCO3 solution. The product was filtered, washed with 300 ml of hot methylene chloride, then extracted using a Soxhlet extractor using 10% NaHCO3 overnight. The product was dried then recrystallized from ethanol to give 11 g of white crystals, mp 326° C.-328° C. Analysis calculated for C26H16N4Br2 : C, 57.38; H, 2.96; N, 10.29. Found: C, 57.81; H, 3.04, N, 10.30.

reactant | PPSE | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
reactant | 4,4'-dibromodiphenic acid | 15.0 g | BrC=1C=C(C(=CC1)C=1C(C(=O)O)=CC(=CC1)Br)C(=O)O | C14H8Br2O4
reactant | o-phenylene diamine | 8.11 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4,4'-dibromo-2,2'-bisbenzimidazolyl biphenyl | 11 g | BrC1=CC(=C(C=C1)C1=C(C=C(C=C1)Br)C=1NC2=C(N1)C=CC=C2)C=2NC1=C(N2)C=CC=C1 | C26H16Br2N4
